US08349880B2
Step AAN (1): 2-(4-Ethoxyphenyl)acetic acid (2.00 g, 11.1 mmol) was deprotonated with NaHMDS 2.0 M in THF (12.5 mL, 25.0 mmol) and reacted with 1-chloro-4-iodobutane (1.49 mL, 12.2 mmol) using a procedure analogous to Step AC (1) and after silica gel column chromatography (30-80% EtOAc/hexanes) afforded 6-chloro-2-(4-ethoxyphenyl)hexanoic acid (1.10 g, 4.06 mmol, 37% yield) as a pale-yellow oil. LC-MS (M+Na)+ 293.1.

reactant | 2-(4-Ethoxyphenyl)acetic acid | 11.1 mmol, 2.00 g | C(C)OC1=CC=C(C=C1)CC(=O)O | C10H12O3
reactant | NaHMDS | 2.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 25.0 mmol, 12.5 mL | C1CCOC1 | C4H8O
reactant | 1-chloro-4-iodobutane | 12.2 mmol, 1.49 mL | ClCCCCI | C4H8ClI
product | 6-chloro-2-(4-ethoxyphenyl)hexanoic acid | 4.06 mmol, 1.10 g, 37% yield | ClCCCCC(C(=O)O)C1=CC=C(C=C1)OCC | C14H19ClO3
